US07994176B2
3-[4-(tert-Butyl-diphenyl-silanyloxy)-piperidin-1-yl]-pyrrolidin-2-one
Treat a 0° C. mixture of 2-[4-(tert-butyl-diphenyl-silanyloxy)-piperidin-1-yl]-3-cyano-propionic acid methyl ester (3.32 g, 7.40 mmol) and cobalt (II) chloride hexahydrate (0.87 g, 3.65 mmol) in THF (60 mL) and water (30 mL) portion-wise with sodium borohydride (1.39 g, 36.7 mmol), warm to room temperature, and stir for 2 days under N2. Treat the reaction with 28% ammonium hydroxide (1 mL) and filter through hyflo. Remove the solvent from the filtrate in vacuo, dilute the residue with minimal water and brine, and extract three times with 3:1 chloroform:isopropanol. Dry the organic layer (Na2SO4), remove the solvent in vacuo to afford crude product, and purify with a 0 to 10% methanol in CH2Cl2 gradient to afford 1.68 g (54%) of the titled product. Rf=0.39 (9/1 CH2Cl2/methanol). ES MS (m/z): 423 (M+).

reactant | 2-[4-(tert-butyl-diphenyl-silanyloxy)-piperidin-1-yl]-3-cyano-propionic acid methyl ester | 7.40 mmol, 3.32 g | COC(C(CC#N)N1CCC(CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C26H34N2O3Si
reactant | sodium borohydride | 36.7 mmol, 1.39 g | [BH4-].[Na+]
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
catalyst | cobalt (II) chloride hexahydrate | 3.65 mmol, 0.87 g | O.O.O.O.O.O.[Co](Cl)Cl
product | 3-[4-(tert-Butyl-diphenyl-silanyloxy)-piperidin-1-yl]-pyrrolidin-2-one | 1.68 g, 54% | C(C)(C)(C)[Si](OC1CCN(CC1)C1C(NCC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H34N2O2Si
